US06066641
8-Cyclopropyl-3,N6 -diethyl-isoguanine
5.91 g of 8-cyclopropyl-3-ethyl-6-thioxanthine and 100 ml of 70% ethylamine in water were heated in a 450 ml reactor to 150° C. After 6 hours the solution was filtered and evaporated to dryness. The residue was suspended in methanol, collected, washed and dried to give the title compound (5.67 g) as an off-white solid mp 260° subl./301-5° C. The hydrochloride salt was also obtained as an off-white solid mp 205-50° C.

reactant | 8-cyclopropyl-3-ethyl-6-thioxanthine | 5.91 g | C1(CC1)C1=NC=2N(C(NC(C2N1)=S)=O)CC | C10H12N4OS
reactant | ethylamine | 100 ml | C(C)N | C2H7N
solvent | water | O | H2O
product | 8-Cyclopropyl-3,N6 -diethyl-isoguanine | 5.67 g | C1(CC1)C1=NC=2N(C(N=C(C2N1)NCC)=O)CC | C12H17N5O
